US04276304
434 mg of 2-methoxyphenylglyoxal hydrate are dissolved in 0.5 ml of dimethylsulfoxide, and a solution of 427 mg of α,α-dimethyl-4-methoxyphenethylamine in 1.5 ml of dimethylsulfoxide is added thereto. The mixture is stirred at 20° C. for one hour, whereby a solution of α-(α,α-dimethyl-4-methoxyphenethylimino)-2-methoxyacetophenone in dimethylsulfoxide is obtained.

reactant | 2-methoxyphenylglyoxal hydrate | 434 mg | O.COC1=C(C=CC=C1)C(=O)C=O
reactant | α,α-dimethyl-4-methoxyphenethylamine | 427 mg | CC(CC1=CC=C(C=C1)OC)(C)N | C11H17NO
reactant | dimethylsulfoxide | 0.5 ml | CS(=O)C | C2H6OS
reactant | dimethylsulfoxide | 1.5 ml | CS(=O)C | C2H6OS
product | α-(α,α-dimethyl-4-methoxyphenethylimino)-2-methoxyacetophenone | CC(CC1=CC=C(C=C1)OC)(C)N=C(C(=O)C1=CC=CC=C1)OC | C20H23NO3
